US07005432B2
5-(4-Fluoro-3-methyl-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride
The title compound, MS: m/e=283.1 (M+H+), was prepared from 4-fluoro-3-methylphenylboronic acid (commercially available) and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine.

reactant | 4-fluoro-3-methylphenylboronic acid | FC1=C(C=C(C=C1)B(O)O)C | C7H8BFO2
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 5-(4-Fluoro-3-methyl-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride | Cl.FC1=C(C=C(C=C1)C=1C=C(N=NC1)CN1C(=NC=C1)C)C | InChI=1S/C16H15FN4.ClH/c1-11-7-13(3-4-16(11)17)14-8-15(20-19-9-14)10-21-6-5-18-12(21)2;/h3-9H,10H2,1-2H3;1H
